2190-08-20 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2190-8-19**] 09:30 AM
   renal. Radiology called to reenforce it was a limited study and that
   renal hypodensities seen on CT showed be f/u later or further
   investigation with MR. [**Name13 (STitle) **] as NL appearing kidneys BL, One -2mm
   hypodensity on CT unable to be indentified by US, likely small cyst.
 SPUTUM CULTURE - At [**2190-8-19**] 11:00 AM
 MULTI LUMEN - START [**2190-8-19**] 05:00 PM RIJ
 INDWELLING PORT (PORTACATH) - STOP [**2190-8-19**] 06:10 PM
   intraosseus iv inserted in R tibia, inserted in [**Hospital1 54**] ER at 1727  on
   [**8-18**]
   -CT abd final - tree in [**Male First Name (un) 667**] opacities in lung bases suggestive of
   aspiration, hypodensitities in L kidney, no acute bowel process, VP
   shunt catheter in R hemiabd.
   Urine cult positive > 100,000 GNR
   - hypotensive to SBP 80 overnight got 1 L bolus and maintainance fluid
   -tachy, partially resonded  to fluid, increased BB to 25mg
   Allergies:
   Penicillins
   Unknown;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2190-8-19**] 04:35 PM
   Metronidazole - [**2190-8-20**] 12:00 AM
   Levofloxacin - [**2190-8-20**] 06:08 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2190-8-19**] 08:30 AM
   Fentanyl - [**2190-8-19**] 04:30 PM
   Famotidine (Pepcid) - [**2190-8-19**] 08:06 PM
   Heparin Sodium (Prophylaxis) - [**2190-8-20**] 12:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-8-20**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.6
   HR: 76 (76 - 124) bpm
   BP: 95/5,142(62) {62/22(29) - 130/5,142(78)} mmHg
   RR: 14 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.5 kg (admission): 65.5 kg
   Height: 67 Inch
    CVP: 274 (2 - 274)mmHg
   Total In:
                                                                  5,498 mL
                                                                  1,056 mL
   PO:
   TF:
   IVF:
                                                                  5,428 mL
                                                                  1,056 mL
   Blood products:
   Total out:
                                                                  1,209 mL
                                                                    300 mL
   Urine:
                                                                  1,139 mL
                                                                    300 mL
   NG:
                                                                     70 mL
   Stool:
   Drains:
   Balance:
                                                                  4,289 mL
                                                                    756 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 6.1 L/min
   Physical Examination
   Gen: sedated
   HEENT: Intubated, mucous membranes moist
   Chest: CTAB
   CV: nl S1, S2
   Abd:  Soft, ND, PEG tube in place
   Ext: left foot in boot, right shin I/O site nonbloody
   Skin: warm
   Neuro:  sedated
   Labs / Radiology
   261 K/uL
   8.9 g/dL
   219 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   34 mg/dL
   113 mEq/L
   142 mEq/L
   27.6 %
   16.7 K/uL
        [image002.jpg]
                             [**2190-8-19**]  03:16 AM
                             [**2190-8-19**]  11:15 AM
                             [**2190-8-19**]  10:09 PM
                             [**2190-8-19**]  11:44 PM
                             [**2190-8-20**]  03:42 AM
   WBC
   22.4
   18.1
   16.7
   Hct
   30.0
   30.3
   27.6
   Plt
   280
   270
   261
   Cr
   0.5
   0.4
   0.4
   TCO2
   25
   Glucose
   143
   411
   219
   Other labs: PT / PTT / INR:18.2/47.6/1.7, ALT / AST:17/14, Alk Phos / T
   Bili:70/0.3, Amylase / Lipase:56/11, Albumin:2.6 g/dL, LDH:154 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:1.5 mg/dL
   Sputum  Cx from [**8-19**] showed 4+ GPCs in clusters and 2+ GNRs
   Urine  Cx from [**8-18**] showed >100,000 GNRs and 10,000-100,000 Proteus
   Blood cx Pending
   Imaging:  No change in R infrahilar opacity per my read
   Assessment and Plan
   Assessment and Plan
   A/P: 69 yo male with h/o hydrocephalus, s/p R. MCA stroke, s/p PEG,
   recurrent c.diff and aspiraton pna who presents with ongoing vomiting
   and increased yellow secretions.
   #Respiratory [**Name (NI) 4007**] Pt intubated in ED for airway protection in
   setting of vomiting and concern for aspiration; ABG wnl; does not
   appear to have hypoxia or ventilation defect at present
   -Will tx pna as above
   -Fent/midaz for sedation
   -ABG in AM
   - Trial PSV today, RSBI, will likely attempt extubation this afternoon
   # N/[**Name (NI) **] Etiology unclear  but  may include SBO/ileus vs esophagitis vs
   pancreatitis vs hepatitis vs gastroparesis (given long standing
   diabetes).  Initial concern for worsening ICP given acute onset of N/V;
   repeat imaging in ED showed ? increasing size of 3rd ventricle but per
   neuro his VP shunt does not appear to contribute to his Nausea and
   vomiting.
   - LFTs normal
   -Monitor for hematemesis or residuals from PEG
   -H2 blocker
   -NPO for now; consider trial of tube feeds later today
   -Zofran q4 prn
   # Leukocytosis: Most likely [**2-13**] aspiration pna given bilatereal pleural
   opacities on imaging; however may also have add'l infection include
   C.Diff vs UTI vs abdominal infection (renal cyst seen on CT
   Abddomen).
   -Sputum showed GPCs, continue Vanc
   - Urine Cx showed GNRs, switch Levo to Cefepime
   - follow urine, blood cultures and sensitivities, readdress abx when
   more information available
   - stool for C.diff, continue flagyl
   - Renal US limited, but hypodensities appeared to be cysts.  Can f/u
   later.
   #Hypotension- Likely volume depletion but concern for SIRS vs sepsis as
   pt has fever, WBC; however lactate wnl.  BP fluid responsive; may also
   be exacerbated by large bolus of sedation
   - rec
d 1 L bolus o/n, started on 100 m L/hr maintenance fluid
   - wean down sedation as tolerated
   #Sinus Tachycardia- Etiology likely related to volume plus some
   component of rebound tachy [**2-13**] not getting home BB and clonidine patch
   - BB increased to 25 mg
   -Fluids
   -TSH 3.1
   # DM
   - Glargine per home regimen (70U QHS: need to confirm dose), will give
 dose when NPO
   - sugars >200, will increase Regular insulin sliding scale
   # h/o Hydrocephalus s/p VP Shunt: CT Head unchanged per neurosurgery
   recs
   -f/u final read in AM
   # s/p recent CVA ([**2190-6-3**])- Per son neurologic status at baseline
   - cont ASA, statin
   # FEN-Hold tube feeds while intubated and anticipating extubation.
   -Nutrition consult obtained  for tube feeds
   -Restart tube feeds after extubated; start small volume, increase
   slowly and monitor for residuals
   ICU Care
   Nutrition:
   Glycemic Control:  Glargine and SSI
   Lines:
   20 Gauge - [**2190-8-18**] 11:52 PM
   Multi Lumen - [**2190-8-19**] 05:00 PM (RIJ)
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Son Comments: discussed case and high likelihood of
   recurrence with son at length today.  Son understands and wants to
   continue current managment
   Code status: Full code
   Disposition: ICU for today, will consider transfer to floor or d/c once
   extubated and stabiliized.

2190-08-21 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2190-8-20**] 01:37 PM (Extubated)- no
   issues overnight except required intermittent nasotracheal suctioning
   Residuals from tube feeds 60 mL after 2 hrs, started Reglan
   Discussed case with family, understands liklihood of recurrence,
   interested in rehab facility before return to NH
   Tube feeds not at goal, started LR IV at 75 mL/hr
   Allergies:
   Penicillins
   Unknown;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-8-20**] 01:41 PM
   Vancomycin - [**2190-8-20**] 08:30 PM
   Bactrim DS
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2190-8-20**] 08:00 PM
   Metoprolol - [**2190-8-20**] 10:05 PM
   Heparin Sodium (Prophylaxis) - [**2190-8-21**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: According to pt
s family, mental status at
   baseline.  Still will rhonchorous cough.
   Flowsheet Data as of  [**2190-8-21**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 96 (74 - 122) bpm
   BP: 113/41(55) {94/23(43) - 158/60(82)} mmHg
   RR: 17 (8 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.5 kg (admission): 65.5 kg
   Height: 67 Inch
    CVP: 6 (0 - 8)mmHg
   Total In:
                                                                  3,752 mL
                                                                  1,041 mL
   PO:
   TF:
                                                                     41 mL
                                                                    220 mL
   IVF:
                                                                  3,712 mL
                                                                    791 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    520 mL
   Urine:
                                                                  1,065 mL
                                                                    450 mL
   NG:
                                                                    345 mL
                                                                     70 mL
   Stool:
   Drains:
   Balance:
                                                                  2,342 mL
                                                                    521 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode:
   Vt (Set):
   PS :
   RR (Set):
   PEEP:
   FiO2:
   RSBI:
   PIP:
   Plateau:
   SpO2: 98%
   ABG: 7.36/39/166/20/-2
   Ve:
   PaO2 / FiO2:
   Physical Examination
   Gen: NAD, sittin gin chair
   Cardiac: s1s2+, RRR, no MRG, no ectopy
   Pulm: nml explansion, transmitted BS from upper airway secretions, RLL
   with rhonchi
   Abd: +BS, nt/nd, soft, no HSM
   Ext: no clubbing cyanosis, trace  edema, pedal pulses 1+ B/L
   Skin:  WNL
   Neurologic: Responds to verbal stimuli but is nonverbal at baseline
   Labs / Radiology
   241 K/uL
   8.0 g/dL
   84 mg/dL
   0.3 mg/dL
   20 mEq/L
   3.8 mEq/L
   17 mg/dL
   117 mEq/L
   144 mEq/L
   24.6 %
   14.9 K/uL
        [image002.jpg]
                             [**2190-8-19**]  03:16 AM
                             [**2190-8-19**]  11:15 AM
                             [**2190-8-19**]  10:09 PM
                             [**2190-8-19**]  11:44 PM
                             [**2190-8-20**]  03:42 AM
                             [**2190-8-20**]  12:19 PM
                             [**2190-8-21**]  03:28 AM
   WBC
   22.4
   18.1
   16.7
   14.9
   Hct
   30.0
   30.3
   27.6
   24.6
   Plt
   280
   270
   261
   241
   Cr
   0.5
   0.4
   0.4
   0.3
   TCO2
   25
   23
   Glucose
   143
   411
   219
   84
   Other labs: PT / PTT / INR:17.3/45.1/1.6, ALT / AST:17/14, Alk Phos / T
   Bili:70/0.3, Amylase / Lipase:56/11, Albumin:2.6 g/dL, LDH:154 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   UCx: Klebsiella and Proteus
   RespCxs: MRSA and gram neg rods
   CXR [**8-20**]:
   Comparison with study of [**8-20**], there are lower lung volumes. There
   is still some right infrahilar and left suprahilar opacification
   consistent
   with aspiration. However, some of this may also reflect crowding of
   vessels
   due to poor inspiration.
   The endotracheal and nasogastric tubes have been removed. Right IJ
   catheter
   extends to the mid portion of the SVC.
   Assessment and Plan
   Assessment and Plan
   A/P: 69 yo male with h/o hydrocephalus, s/p R. MCA stroke, s/p PEG,
   recurrent c.diff and aspiraton pna who presents with ongoing vomiting
   and increased yellow secretions.
   #Respiratory [**Name (NI) 4007**] Pt extubated successful yesterday
   -Will tx pna with Vanc, Ceftriaxone, and Bactrim for double coverage
   and for Urine Cx
   # N/[**Name (NI) **] Etiology unclear  but  may include SBO/ileus vs esophagitis vs
   pancreatitis vs hepatitis vs gastroparesis (given long standing
   diabetes).  Initial concern for worsening ICP given acute onset of N/V;
   repeat imaging in ED showed ? increasing size of 3rd ventricle but per
   neuro his VP shunt does not appear to contribute to his Nausea and
   vomiting.
   - LFTs normal
   -Monitor for hematemesis or residuals from PEG
   -H2 blocker
   -having residuals from tube feeds so starting slow with 10-20cc/hr
   -Reglan q8 prn
   # Leukocytosis: Most likely [**2-13**] aspiration pna given bilatereal pleural
   opacities on imaging; however may also have add'l infection include
   C.Diff vs UTI vs abdominal infection (renal cyst seen on CT
   Abddomen).
   -Sputum showed GPCs, continue Vanc
   - Urine Cx showed GNRs, switch Ceftriaxone and Bactrim
   - only history of stool for C.diff, d/c flagyl
   - Renal US limited, but hypodensities appeared to be cysts.  Can f/u
   later.
   #Hypotension- Likely volume depletion but concern for SIRS vs sepsis as
   pt has fever, WBC; however lactate wnl.  BP fluid responsive; may also
   be exacerbated by large bolus of sedation
   - rec
d 1 L bolus o/n, started on 100 m L/hr maintenance fluid
   - wean down sedation as tolerated
   #Sinus Tachycardia- Etiology likely related to volume plus some
   component of rebound tachy [**2-13**] not getting home BB and clonidine patch
   - BB increased to 25 mg
   -Fluids
   -TSH 3.1
   # DM
   - Glargine per home regimen (70U QHS: need to confirm dose), will give
 dose when NPO
   - sugars >200, will increase Regular insulin sliding scale
   # h/o Hydrocephalus s/p VP Shunt: CT Head unchanged per neurosurgery
   recs
   -f/u final read in AM
   # s/p recent CVA ([**2190-6-3**])- Per son neurologic status at baseline
   - cont ASA, statin
   # FEN-Hold tube feeds while intubated and anticipating extubation.
   -Nutrition consult obtained  for tube feeds
   -Restart tube feeds after extubated; start small volume, increase
   slowly and monitor for residuals
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-8-21**] 04:43 AM 10 mL/hour
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2190-8-19**] 05:00 PM
   Prophylaxis:
   DVT: hep subQ
   Stress ulcer: pepsid
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to floors today

2190-08-21 11:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2190-8-20**] 01:37 PM
   patient extubated without event
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2190-8-20**] 06:08 AM
   Metronidazole - [**2190-8-20**] 08:24 AM
   Ceftriaxone - [**2190-8-20**] 01:41 PM
   Vancomycin - [**2190-8-21**] 08:15 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2190-8-20**] 10:05 PM
   Famotidine (Pepcid) - [**2190-8-21**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2190-8-21**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-8-21**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 78 (74 - 122) bpm
   BP: 140/66(85) {103/23(43) - 158/66(85)} mmHg
   RR: 15 (8 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.5 kg (admission): 65.5 kg
   Height: 67 Inch
   CVP: 3 (0 - 8)mmHg
   Total In:
                                                                  3,692 mL
                                                                  1,620 mL
   PO:
   TF:
                                                                     41 mL
                                                                    291 mL
   IVF:
                                                                  3,652 mL
                                                                  1,239 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    665 mL
   Urine:
                                                                  1,065 mL
                                                                    595 mL
   NG:
                                                                    345 mL
                                                                     70 mL
   Stool:
   Drains:
   Balance:
                                                                  2,282 mL
                                                                    955 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 17
   SpO2: 100%
   ABG: 7.36/39/166/20/-2
   Ve: 5.6 L/min
   PaO2 / FiO2: 474
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic:, Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   241 K/uL
   84 mg/dL
   0.3 mg/dL
   20 mEq/L
   3.8 mEq/L
   17 mg/dL
   117 mEq/L
   144 mEq/L
   24.6 %
   14.9 K/uL
        [image002.jpg]
                             [**2190-8-19**]  03:16 AM
                             [**2190-8-19**]  11:15 AM
                             [**2190-8-19**]  10:09 PM
                             [**2190-8-19**]  11:44 PM
                             [**2190-8-20**]  03:42 AM
                             [**2190-8-20**]  12:19 PM
                             [**2190-8-21**]  03:28 AM
   WBC
   22.4
   18.1
   16.7
   14.9
   Hct
   30.0
   30.3
   27.6
   24.6
   Plt
   280
   270
   261
   241
   Cr
   0.5
   0.4
   0.4
   0.3
   TCO2
   25
   23
   Glucose
   143
   411
   219
   84
   Other labs: PT / PTT / INR:17.3/45.1/1.6, ALT / AST:17/14, Alk Phos / T
   Bili:70/0.3, Amylase / Lipase:56/11, Albumin:2.6 g/dL, LDH:154 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR--Some improvement in right LL pneumonia on CXR but still
   persistent
   Microbiology: S. Aureus
   GNR
   From sputum
   Assessment and Plan
   66 yo admit with nausea/vomiting and respiratory failure.  He has
   aspiration pneumonitis as likely trigger and has show rapid improvement
   with supportive care at this time.  He does have some persistent cough
   and need for secretion clearance and support with pulmonary toilet.
   Respiratory Failure-Good stability post extubation.  He has some
   persistent secretions but reasonable cough.
   -Continue Pneumonia Rx
   -Suction PRN and regular cough/chest PT
   -O2 off
   -OOB to ambulate if possible.
   Aspiration Pneumonia-
   -Vanco/CTX for antibiotics
   -Will need to maintain aspiration precautions
   -PEG tube feeds returning today
   Altered Mental Status-
   -Per family evaluation
patient near baseline
   -By exam patient non-verbal but has apparent response to voice.
   Nausea/Vomiting-
   -This continues and increases risk for aspiration certainly.
   -Reglan started and will advance TF
s slowly
   -To 20cc/hr this morning.
 LEUKOCYTOSIS
 NAUSEA / VOMITING
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-8-21**] 04:43 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2190-8-19**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes